US09376436B2
4-Bromo-5,6-dimethyl-pyridine-2-carbonitrile (D144)
A mixture of 4-bromo-2,3-dimethyl-1-oxido-pyridin-1-ium (15.8 g, 78.2 mmol) (which may be prepared as described in Description 5) and dimethyl sulfate (8.88 mL, 93.84 mmol) in MeCN (36 mL) was stirred at block temp of 70° C. under N2 for 3.25 h. The reaction mixture was evaporated to an oil which was stirred with Et2O (2×50 ml) and the solvent was decanted from the oil. The oil was dried in vacuo and dissolved in water (105 mL) and then was added over 25 mins to a stirred solution of potassium cyanide (20.37 g, 312.79 mmol) in water (75 mL), cooled in a salt-ice Dewar bath (range during addition −5 to 0° C.). The turbid mixture was stirred in the ice/salt bath whilst it warmed slowly to ambient temperature overnight. The beige precipitate was then filtered under suction and washed with water (3×50 ml) and pressed dry. This moist solid was then dissolved in DCM (300 ml), dried (Na2SO4), filtered and evaporated to a beige solid, approximately 90% pure 4-bromo-5,6-dimethyl-pyridine-2-carbonitrile (D144) by NMR;

reactant | 4-bromo-2,3-dimethyl-1-oxido-pyridin-1-ium | 78.2 mmol, 15.8 g | BrC1=C(C(=[N+](C=C1)[O-])C)C | C7H8BrNO
reactant | dimethyl sulfate | 93.84 mmol, 8.88 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium cyanide | 312.79 mmol, 20.37 g | [C-]#N.[K+]
solvent | MeCN | 36 mL | CC#N | C2H3N
solvent | water | 75 mL | O | H2O
product | 4-Bromo-5,6-dimethyl-pyridine-2-carbonitrile | BrC1=CC(=NC(=C1C)C)C#N | C8H7BrN2
